US07700625B2
2-(2,4-Dimethoxy-benzyl)-4-(3-morpholin-4-yl-propoxy)-2,3-dihydro-1H-isoindole
2-(2,4-Dimethoxy-benzyl)-4-(3-morpholin-4-yl-propoxy)-isoindole-1,3-dione (298 m g, 0.68 mmol) was treated with a 1M solution of lithium aluminium hydride in THF (5 mL, 5 mmol) and maintained at r.t. for 21 hours. The mixture was heated to 75° C. for 1 hour then cooled in ice and quenched by the dropwise addition of water (0.2 mL), 2N sodium hydroxide solution (0.4 mL) and water (0.4 mL). Magnesium sulfate was added, followed by ethyl acetate and then the mixture was stirred at r.t. for 1 hour. The solids were removed by filtration, being well washed with ethyl acetate. Concentration of the filtrate gave a crude product which was purified by flash chromatography on silica, eluting with 5% methanol in DCM. This afforded the title compound (233 mg, 83%) as a red oil. 1H NMR (methanol-d4) 7.24 (1H, d), 7.15 (1H, t), 6.80 (1H, d), 6.78 (1H, d), 6.56 (1H, d), 6.52 (1H, dd), 4.05 (2H, t), 3.94 (2H, s), 3.88 (2H, s), 3.87 (2H, s), 3.83 (3H, s), 3.80 (3H, s), 3.70-3.68 (4H, m), 2.54-2.50 (2H, m), 2.49-2.47 (4H, m), 2.00-1.93 (2H, m). MS: [M+H]+ 413.

reactant | 2-(2,4-Dimethoxy-benzyl)-4-(3-morpholin-4-yl-propoxy)-isoindole-1,3-dione | 0.68 mmol | COC1=C(CN2C(C3=CC=CC(=C3C2=O)OCCCN2CCOCC2)=O)C=CC(=C1)OC | C24H28N2O6
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 5 mmol, 5 mL | C1CCOC1 | C4H8O
product | 2-(2,4-Dimethoxy-benzyl)-4-(3-morpholin-4-yl-propoxy)-2,3-dihydro-1H-isoindole | 233 mg, 83% | COC1=C(CN2CC3=CC=CC(=C3C2)OCCCN2CCOCC2)C=CC(=C1)OC | C24H32N2O4
